US07696231B2
a) Preparation of N-[4-(hydrazinocarbonyl)phenyl][1,1′-biphenyl]-4-carboxamide (Scheme 2, compound B)
To a suspension of methyl 4-[([1,1′-biphenyl]-4-ylcarbonyl)amino]benzoate (880 mg, 2.66 mmol) in EtOH (10 mL) was added hydrazine hydrate (1.8 mL). After stirring for 7 days at reflux, the reaction mixture was cooled to rt and a white solid precipitated out. Filtration, washing with EtOH (3×2 mL) and water (3×2 mL), and drying under vacuo at rt for 6 hrs gave 585 mg of the title compound (66%) as a white solid in 96.4% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | methyl 4-[([1,1′-biphenyl]-4-ylcarbonyl)amino]benzoate | 2.66 mmol, 880 mg | C1(=CC=C(C=C1)C(=O)NC1=CC=C(C(=O)OC)C=C1)C1=CC=CC=C1 | C21H17NO3
reactant | hydrazine hydrate | 1.8 mL | O.NN
solvent | EtOH | 10 mL | CCO | C2H6O
product | N-[4-(hydrazinocarbonyl)phenyl][1,1′-biphenyl]-4-carboxamide | 585 mg, 66% | N(N)C(=O)C1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C20H17N3O2
